US05969017
An intimate, magnetically stirred mixture of 440 mg (1.40 mmol) of 1-[(4-methylphenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone 370 μl of ethylcyanoacetate and 178 mg of ammonium acetate was heated under a nitrogen atmosphere at 160° C. for 30 min. The reaction mixture was cooled and dissolved in methylene chloride. The organic layer was washed successively with saturated aqueous sodium bicarbonate and water. The organic layer was dried over magnesium sulfate and evaporated in vacuo to yield semi-pure product. The residue was recrystallized from ethanol to yield 6-[(4-methylphenyl)thio]-2,3-dihydro-2-(4-methoxyphenyl)-5-methyl-3-oxo-4-pyridazinecarbonitrile, mp 148-149° C.(EtOH). 1H NMR(400 MHz, CDCl3) 2.35 (s, 3 H), 2.52 (s, 3 H), 3.78 (s, 3 H), 6.82 (d, J=9.2 Hz, 2 H), 7.18 (d, J=8 Hz, 2 H), 7.34 (d, J=8 Hz, 2 H), 7.36 (d, J=9.2 Hz, 2 H).

reactant | 1-[(4-methylphenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone | 1.40 mmol, 370 μl, 440 mg | CC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC=C(C=C1)OC | C17H18N2O2S
reactant | ethylcyanoacetate | C(C)OC(CC#N)=O | C5H7NO2
reactant | ammonium acetate | 178 mg | C(C)(=O)[O-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-[(4-methylphenyl)thio]-2,3-dihydro-2-(4-methoxyphenyl)-5-methyl-3-oxo-4-pyridazinecarbonitrile | CC1=CC=C(C=C1)SC=1C(=C(C(N(N1)C1=CC=C(C=C1)OC)=O)C#N)C | C20H17N3O2S
